US08648111B2
(1-1) Preparation of 1-ethyl-3-(2-(thiophen-2-yl)ethyl)thiourea
Ethyl isothiocyanate (1.3 g, 15.0 mmol) was slowly added dropwise to a solution of thiopheneethylamine (1.3 g, 10.2 mmol) in dichloromethane (150 mL). Triethyl amine (3.8 mL, 20.4 mmol) was added dropwise to the mixture and stirred at room temperature for 2 h. After completion of the reaction, pH of the resulting solution was adjusted to about 7 using aqueous 1N HCl, to which water was added. The resulting mixture was extracted with dichloromethane. The residue was purified by flash column chromatography (ethyl acetate:hexanes=1:3), to give the title compound (1.9 g, 89%).

reactant | Ethyl isothiocyanate | 15.0 mmol, 1.3 g | C(C)N=C=S | C3H5NS
reactant | thiopheneethylamine | 10.2 mmol, 1.3 g | S1C(=CC=C1)CCN | C6H9NS
reactant | Triethyl amine | 20.4 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-ethyl-3-(2-(thiophen-2-yl)ethyl)thiourea | 1.9 g, 89% | C(C)NC(=S)NCCC=1SC=CC1 | C9H14N2S2
